US09108939B2
1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-3-(pyridin-4-yl)urea
Phenyl pyridin-4-ylcarbamate (1.680 mmol, 0.36 g) was added to a stirred solution of 2-(4-((4-(4-aminobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (1.120 mmol, 0.5 g) in dioxane (20 mL) and the mixture heated in a microwave for 10 minutes at 130° C. followed by 5 minutes at 130° C. The mixture was washed with water (10 mL) and the organic phase dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by HPLC and concentrated under reduced pressure to afford the title compound (168 mg). MS (ESI) m/z 567.5 [M+H]+

reactant | Phenyl pyridin-4-ylcarbamate | 1.680 mmol, 0.36 g | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | 2-(4-((4-(4-aminobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 1.120 mmol, 0.5 g | NC1=CC=C(CC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1 | C22H24F6N2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-3-(pyridin-4-yl)urea | 168 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)CC2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2)C=C1)(F)F | C28H28F6N4O2
